US08476302B2
A solution of tert-butyl ((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate, dioxane (16 mL), and 4N HCl in dioxane (13 ml) was stirred at room temperature for 4 h. The resulting mixture was concentrated in vacuo to yield (5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methanamine, which was in the next step used directly without further purification. MS (ES+) 316 (MH+).

reactant | tert-butyl ((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | FC=1C=C(COC2=CC=C(C=C2)C2=NN=C(S2)CNC(OC(C)(C)C)=O)C=CC1 | C21H22FN3O3S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | (5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methanamine | FC=1C=C(COC2=CC=C(C=C2)C2=NN=C(S2)CN)C=CC1 | C16H14FN3OS
